* C:\Users\elmar\Desktop\UU\UppSense\ltspice\current source\current_source.asc
R1 N003 0 5
R2 N001 N002 280
Q1 N002 N004 N003 0 2N3904
V1 N005 0 SINE(1.5 1.5 500)
V2 N001 0 5V
XU1 IN N003 V+ V- N004 AD8552
V3 V+ 0 20
V4 0 V- 20
R3 IN N005 19K
R4 IN 0 1K
.model NPN NPN
.model PNP PNP
.lib C:\Users\elmar\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 10ms 0 100us
.include ad8276.cir
.lib ADI.lib
.backanno
.end
