* Z:\home\maximilian\UppSense\ltspice\magnet_driver\magnet_driver.asc
V1 N001 0 PULSE(0V 3.3V 0 1us 1us 5s 10s)
V2 V+ 0 5V
M1 N003 N001 0 0 AO6408
M2 N003 N001 V+ V+ AO6407
M3 N004 N002 0 0 AO6408
M4 N004 N002 V+ V+ AO6407
R1 N004 N003 100
V3 N002 0 PULSE(3.3V 0V 0 1us 1us 5s 10s)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\maximilian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 100s
.backanno
.end
