* Z:\media\maximilian\87f7f722-b1f2-41c7-ad6b-394d8b26d400\Geschäft\Master\UppSense\git\ltspice\transimpedance amplifier\002transimpedance_ac_sweep_1M.asc
XU1 N001 IN V+ V- OUT AD8615
R1 OUT IN {R}
V2 V+ 0 5V
V3 0 V- 5V
I1 IN 0 AC 10u
C1 OUT IN {C}
R2 0 N001 {R}
C2 0 N001 {C}
.include ad8615.cir
.ac dec 100 1 10000000
.param R=1000K
.param C=100p
.backanno
.end
