* Z:\home\maximilian\UppSense\ltspice\transimpedance_amplifier\011transimpedance_ltc6269_three_res.asc
I1 N001 0 0
R1 N001 0 5G
C1 N001 0 72p
R2 N002 N001 10Meg
V1 V+ 0 3.3
V2 0 V- 3.3
R3 OUT N002 100k
R4 0 N002 10
XU1 0 N001 OUT V+ V- NC_01 LTC6268
.dc dec I1 10f 100n
.include ada4530.cir
.lib LTC2.lib
.backanno
.end
